US05550147
A mixture of 3-(difluoromethyl)-1-[3,4-(methylenedioxy)phenyl]-5-[4-(methylthio)phenyl]pyrazole (2.7 g) and m-chloroperbenzoic acid (1.8 g) in dichloromethane (80 ml) was stirred at 5° C. for 4 hours. The mixture was washed with an aqueous solution of sodium bicarbonate, dried, and concentrated. The residue (2.9 g) was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (25:1). The purified product (1.3 g) was recrystallized from isopropanol to give 3-(difluoromethyl)-1-[3,4-(methylenedioxy)phenyl]-5-[4-(methylsulfinyl)phenyl]pyrazole (0.85 g).

reactant | 3-(difluoromethyl)-1-[3,4-(methylenedioxy)phenyl]-5-[4-(methylthio)phenyl]pyrazole | 2.7 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)SC)C1=CC2=C(C=C1)OCO2)F | C18H14F2N2O2S
reactant | m-chloroperbenzoic acid | 1.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 3-(difluoromethyl)-1-[3,4-(methylenedioxy)phenyl]-5-[4-(methylsulfinyl)phenyl]pyrazole | 0.85 g | FC(C1=NN(C(=C1)C1=CC=C(C=C1)S(=O)C)C1=CC2=C(C=C1)OCO2)F | C18H14F2N2O3S
